US04302607
To a stirred suspension of lithium amide, prepared from 1.45 g (0.21 atom) of lithium in ca. 200 ml of liquid ammonia was added 30.6 g (0.18 Mole) of 1,1-dimethoxy-oct-7-yne over a period of 10 min. Dimethyl-sulfoxide (100 ml) was then added, followed by 62.5 g (0.23 Mole) of 1,1-dimethoxy-6-iodohexane within 10 min. Work-up as above gave an oil, from which low-boiling impurities were removed by heating at 100°/0.05 Torr. Crude tetradec-7-yn-1,14-dial dimethylacetal (40.8 g, 72% yield) was used without further purification. A sample was submitted to a rapid distillation: b.p. 140°/0.05 Torr.--IR: 1125, 1070, 1050 cm-1.

reactant | lithium amide | [NH2-].[Li+]
reactant | lithium | 1.45 g | [Li] | Li
reactant | ammonia | N | H3N
reactant | 1,1-dimethoxy-oct-7-yne | 0.18 Mole, 30.6 g | COC(CCCCCC#C)OC | C10H18O2
reactant | 1,1-dimethoxy-6-iodohexane | 0.23 Mole, 62.5 g | COC(CCCCCI)OC | C8H17IO2
solvent | Dimethyl-sulfoxide | 100 ml | CS(=O)C | C2H6OS
product | tetradec-7-yn-1,14-dial dimethylacetal | 40.8 g, 72% yield | COC(CCCCCC#CCCCCCC=O)OC | C16H28O3
